US08076329B2
A suspension of potassium carbonate (138 mg) in a mixture of 1-{3-[4′-(3-chloropropoxy)biphenyl-4-yloxy]propyl}piperidine (100 mg), morpholine (65 mg) and N,N-dimethylformamide (1 mL) is stirred for four days at room temperature. The mixture is filtered, concentrated under reduced pressure and purified by chromatography over silica gel with dichloromethane/methanol 82/2 as eluent. Fractions containing the expected product are pooled and concentrated under reduced pressure to give 25 mg of 4-(3-{[4′-(3-piperidinopropoxy)biphenyl-4-yl]oxy}propyl)morpholine as a off white solid which is salted with 9.4 mg of oxalic acid yielding 15 mg of 4-(3-{[4′-(3-piperidinopropoxy)biphenyl-4-yl]oxy}propyl)-morpholine, dioxalate as a white solid.

reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 65 mg | N1CCOCC1 | C4H9NO
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | 1-{3-[4′-(3-chloropropoxy)biphenyl-4-yloxy]propyl}piperidine | 100 mg | ClCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C23H30ClNO2
product | 4-(3-{[4′-(3-piperidinopropoxy)biphenyl-4-yl]oxy}propyl)morpholine | 25 mg | N1(CCCCC1)CCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1CCOCC1 | C27H38N2O3
